US04689327
A mixture of 3.88 g of 2-hydroxybenzaldehyde sodium salt, 7.00 g of 1-(3-chloropropyl)-4-phenylpiperazine dihydrochloride, 6.80 g of potassium carbonate and 50 ml of dimethylformamide is stirred at 60° to 70° C. for 15 hours under nitrogen atmosphere, and is concentrated under reduced pressure to remove solvent. Water is added to the residue, and the aqueous mixture is extracted with ether. The extract is washed with water, dried and concentrated under reduced pressure to remove solvent. The residue is purified by silica gel chromatography (solvent, chloroform:methanol=99:1). 5.42 g of 2-[3-(4-phenylpiperazin-1-yl)propyloxy]benzaldehyde are obtained as an oil.

reactant | 2-hydroxybenzaldehyde sodium salt | 3.88 g | [Na].OC1=C(C=O)C=CC=C1
reactant | 1-(3-chloropropyl)-4-phenylpiperazine dihydrochloride | 7.00 g | Cl.Cl.ClCCCN1CCN(CC1)C1=CC=CC=C1
reactant | potassium carbonate | 6.80 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 2-[3-(4-phenylpiperazin-1-yl)propyloxy]benzaldehyde | 5.42 g | C1(=CC=CC=C1)N1CCN(CC1)CCCOC1=C(C=O)C=CC=C1 | C20H24N2O2
